US07342127B2
To a stirred solution of 4-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxymethyl-6-isopropylphenol of Part 10B (18 mg, 0.04 mmol), ethylmalonylchloride (5.7 μl, 0.044 mmol) and THF (0.5 mL) was added Et3N (11 μl, 0.08 mmol). After 2 hours stirring at room temperature, the reaction mixture was quenched by NH4Cl (saturated aqueous solution) and the organic phase removed in vacuo. The aqueous phase was extracted with CHCl3 and the resulting two phases were separated with a phase separator (IST). Concentration gave 22 mg (98%) of N-[3,5-dibromo-4-[4-hydroxy-3-hydroxymethyl-5-isopropylphenoxy]-2-methylphenyl]malonamic acid ethyl ester as a yellow foam.

reactant | 4-(4-amino-2,6-dibromo-3-methylphenoxy)-2-hydroxymethyl-6-isopropylphenol | NC1=C(C(=C(OC2=CC(=C(C(=C2)C(C)C)O)CO)C(=C1)Br)Br)C | C17H19Br2NO3
reactant | ethylmalonylchloride | 0.044 mmol, 5.7 μl | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | Et3N | 0.08 mmol, 11 μl | CCN(CC)CC | C6H15N
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-[3,5-dibromo-4-[4-hydroxy-3-hydroxymethyl-5-isopropylphenoxy]-2-methylphenyl]malonamic acid ethyl ester | 22 mg, 98% | C(C)OC(CC(=O)NC1=C(C(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)O)CO)Br)C)=O | C22H25Br2NO6
